US09029531B2
Step A: N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)acetamide
A solution of 5,5′-((1S,3S)-cyclopentane-1,3-diyl)bis(1,3,4-thiadiazol-2-amine) (200 mg, 0.71 mmol), acetic acid (42.5 mg, 0.71 mmol), HATU (260.0 mg, 0.71 mmol), and N-ethyl-N-isopropylpropan-2-amine (110.0 mg, 0.85 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature overnight. The mixture evaporated in vacuum to dryness. The residue was purified by a standard method to afford desired compound. LC-MS: m/z (M+H)=325.4

reactant | 5,5′-((1S,3S)-cyclopentane-1,3-diyl)bis(1,3,4-thiadiazol-2-amine) | 0.71 mmol, 200 mg | [C@H]1(C[C@H](CC1)C1=NN=C(S1)N)C1=NN=C(S1)N | C9H12N6S2
reactant | acetic acid | 0.71 mmol, 42.5 mg | C(C)(=O)O | C2H4O2
reactant | HATU | 0.71 mmol, 260.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.85 mmol, 110.0 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)acetamide | NC1=NN=C(S1)[C@@H]1C[C@H](CCC1)C1=NN=C(S1)NC(C)=O | C12H16N6OS2
